US06087380
3-Methyl-2-[(4-amidinophenyl)-thiomethyl]-imidazo[4,5-b]-pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 1 from 3-methyl-2-[(4-cyanophenyl)thiomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 88% of theory, C27H28N6O3S (516.63) Rf value: 0.23 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) ##EQU106##

reactant | 3-methyl-2-[(4-cyanophenyl)thiomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CSC2=CC=C(C=C2)C#N)C)CCC(=O)OC | C26H23N5O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-2-[(4-amidinophenyl)-thiomethyl]-imidazo[4,5-b]-pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 88% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC | InChI=1S/C27H28N6O3S.ClH/c1-3-36-24(34)13-14-33(20-7-5-4-6-8-20)27(35)19-15-22-26(30-16-19)32(2)23(31-22)17-37-21-11-9-18(10-12-21)25(28)29;/h4-12,15-16H,3,13-14,17H2,1-2H3,(H3,28,29);1H
